US07220856B2
Preparation of 4-(7-chloro-4-quinolinyl)-N-(2-methoxyphenyl)-1-piperazinecarboxamide:
As described for example 78, 2-methoxyaniline, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(piperazin-1-yl)quinoline are reacted to afford the product after flash chromatography with CH2Cl2-MeOH.

reactant | 2-methoxyaniline | COC1=C(N)C=CC=C1 | C7H9NO
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(piperazin-1-yl)quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(7-chloro-4-quinolinyl)-N-(2-methoxyphenyl)-1-piperazinecarboxamide | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=C(C=CC=C1)OC | C21H21ClN4O2
